US06248775B1
A mixture of 848 mg (5.1 mmol) of ethyl 6-aminonicotinate from part A, 1.11 g (5.1 mmol) of di-tert-butylpyrocarbonate and 0.71 mL (5.1 mmol) of triethylamine in 10 mL of anhydrous toluene was refluxed for 15 hours. The solution was cooled, ethyl acetate added, washed with saturated sodium bicarbonate, brine, dried over anhydrous magnesium sulfate, filtered and concentrated to afford 1.28 g of the desired ethyl 6-(tert-butyloxycarbonylamino)nicotinate, m/e=267(M+H), which was used directly in the next step.

reactant | ethyl 6-aminonicotinate | 5.1 mmol, 848 mg | NC1=NC=C(C(=O)OCC)C=C1 | C8H10N2O2
reactant | di-tert-butylpyrocarbonate | 5.1 mmol, 1.11 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 5.1 mmol, 0.71 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 6-(tert-butyloxycarbonylamino)nicotinate | 1.28 g | C(C)(C)(C)OC(=O)NC1=NC=C(C(=O)OCC)C=C1 | C13H18N2O4
